US09127007B2
(b). (R)-1-(tert-butyldimethylsilyloxy)-3-(1H-indol-3-yl)propan-2-amine
To a solution of D-Tryptophanol (1.024 g) and imidazole (403 mg) in DCM (40 ml) and THF (8 ml) was added a solution of tert-butyldimethylsilyl chloride (0.852 g) in DCM (5 ml) dropwise. The reaction was allowed to warm to room temperature overnight. The reaction mixture was quenched with a saturated aqueous NaHCO3 solution and the reaction mixture was extracted with dichloromethane. The aqueous phase was washed with dichloromethane and the combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with heptane and increasing amounts of ethyl acetate.

reactant | D-Tryptophanol | 1.024 g | N[C@H](CC1=CNC2=CC=CC=C12)CO | C11H14N2O
reactant | imidazole | 403 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.852 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (R)-1-(tert-butyldimethylsilyloxy)-3-(1H-indol-3-yl)propan-2-amine | [Si](C)(C)(C(C)(C)C)OC[C@@H](CC1=CNC2=CC=CC=C12)N | C17H28N2OSi
